US07651630B2
15.1 g of trans-4-(trans-4-vinylcyclohexyl)cyclohexylmethanol, 8.2 mL of pyridine, and 0.41 g of 4-dimethylaminopyridine were dissolved in 50 mL of dichloromethane. A dichloromethane (6 mL) solution containing 6.3 mL of methanesulfonyl chloride was added dropwise to the above solution on ice for 30 minutes. The solution was heated to room temperature, then stirred for 6 hours, and was left over night. The reaction solution was poured into 10% hydrochloric acid, and the organic phase was fractioned. The water phase was extracted with dichloromethane. The organic phase was collected and washed with saturated saline, and then dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by column chromatography (silicagel/toluene) and recrystallization (hexane/toluene) three times, to thereby obtain 9.8 g of trans-4-(trans-4-vinylcyclohexyl)cyclohexylmethyl methanesulfonate in the form of colorless crystals.

reactant | trans-4-(trans-4-vinylcyclohexyl)cyclohexylmethanol | 15.1 g | C(=C)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CO | C15H26O
reactant | pyridine | 8.2 mL | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 6.3 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | Cl | ClH
catalyst | 4-dimethylaminopyridine | 0.41 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | trans-4-(trans-4-vinylcyclohexyl)cyclohexylmethyl methanesulfonate | 9.8 g | CS(=O)(=O)OC[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)C=C | C16H28O3S
